US05824691
10% Palladium-carbon (0.2 g) was added to a mixture of 2-[3-(2-benzyloxycarbonylpyrrol-1-yl)benzoyl]guanidine (1.2 g) in methanol and the mixture was hydrogenated at ambient temperature under an atmospheric pressure. After the mixture was added to water, and the mixture was adjusted to pH 10 with potassium carbonate. The catalyst was removed by filtration and the filtrate was evaporated in vacuo. The residue was dissolved in a mixture of water and ethyl acetate and the separated aqueous layer was adjusted to pH 5 with 6N-hydrochloric acid. The isolated precipitate was collected by filtration and the precipitate was recrystallized from a mixture of methanol, dioxane and diisopropyl ether to give 2-[3-(2-carboxypyrrol-1-yl) benzoyl]guanidine (0.41 g).

reactant | 2-[3-(2-benzyloxycarbonylpyrrol-1-yl)benzoyl]guanidine | 1.2 g | C(C1=CC=CC=C1)OC(=O)C=1N(C=CC1)C=1C=C(C(=O)N=C(N)N)C=CC1 | C20H18N4O3
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
catalyst | Palladium-carbon | 0.2 g | [C].[Pd]
product | 2-[3-(2-carboxypyrrol-1-yl) benzoyl]guanidine | 0.41 g | C(=O)(O)C=1N(C=CC1)C=1C=C(C(=O)N=C(N)N)C=CC1 | C13H12N4O3
